US05272272
A solution of 1.91 g (0.009 mol) of 5,6,7,8-tetrahydro-1-naphthoyl chloride in anhydrous tetrahydrofuran (50 cm3) is added dropwise to a solution of 1.5 g (0.0064 mol) of alpha-L-glutamyl-5-aminopyridine-2-carbonitrile and 5.05 g (0.06 mol) of NaHCO3 in 50 cm3 of water. After stirring for 15 minutes at 20 C., the tetrahydrofuran is removed under vacuum and the remaining aqueous solution is acidified to pH 2-3 with a 6 N solution of HCl to give a precipitate of 1.4 g of N-5,6,7,8-tetrahydro-1-naphthoyl-alpha-L-glutamyl-5-aminopyridine-2-carbonitrile (yield: 55%, melting point: 141° C. in the amorphous state) after filtration and trituration in hexane. The sweetening potency of this compound, on a weight basis, is approximately 40,000 (forty thousand) times that of sucrose by comparison with a 2% solution of sucrose, 30,000 (thirty thousand) times by comparison with a 5% solution of sucrose and 20,000 (twenty thousand) times by comparison with a 10% solution of sucrose. This is tantamount to saying that an aqueous solution of 5 mg/1 of the compound has an intense sweet taste equivalent to that of a 10% solution of sucrose, corresponding to the sweetening intensities generally used in food preparations.

reactant | 5,6,7,8-tetrahydro-1-naphthoyl chloride | 0.009 mol, 1.91 g | C1(=CC=CC=2CCCCC12)C(=O)Cl | C11H11ClO
reactant | alpha-L-glutamyl-5-aminopyridine-2-carbonitrile | 0.0064 mol, 1.5 g | N[C@@H](CCC(O)=O)C(=O)C=1C(=NC=C(C1)N)C#N | C11H12N4O3
reactant | NaHCO3 | 0.06 mol, 5.05 g | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
solvent | water | 50 cm3 | O | H2O
product | N-5,6,7,8-tetrahydro-1-naphthoyl-alpha-L-glutamyl-5-aminopyridine-2-carbonitrile | 1.4 g, yield: 55% | C1(=CC=CC=2CCCCC12)C(=O)N[C@@H](CCC(O)=O)C(=O)C=1C(=NC=C(C1)N)C#N | C22H22N4O4
